US07163936B2
To a solution of 1-allyl 3-tert-butyl (2S)-2-[(methoxymethoxy)methyl]-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (296 mg, 0.90 mmol) in methanol (2 ml) was added hydrochloric acid/methanol(5 ml) and the mixture was stirred overnight. To the solution was added toluene and the solvent was removed in vacuo. To the residue were added methanol and toluene and the solvent was again removed in vacuo. The residue was dissolved in THF (8 ml) and thereto were added at 0–5° C. 2,6-lutidine (0.84 ml, 7.2 mmol) and tert-butyldimethylsilyltriflate (0.83 ml, 3.6 mmol). The mixture was stirred at room temperature for 1 hour and thereto was added at 0–5° C. a solution of trimethylsilyldiazomethane in hexane (2M, 0.45 ml, 0.90 mmol). Thirty minutes later the mixture was raised to room temperature and stirred for 30 minutes. Thirty minutes later to the mixture were added 1N hydrochloric acid and a saturated aqueous sodium chloride solution, and the mixture was separated with a separating funnel. The organic layer was dried over magnesium sulfate, and the solvent was removed in vacuo. The residue was purified with silica gel (26 g) chromatography (hexane/ethyl acetate=1/5) to give 1-allyl 3-methyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (71 mg, 22%).

reactant | 1-allyl 3-tert-butyl (2S)-2-[(methoxymethoxy)methyl]-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 0.90 mmol, 296 mg | COCOC[C@H]1N(CC=C1C(=O)OC(C)(C)C)C(=O)OCC=C | C16H25NO6
reactant | hydrochloric acid methanol | 5 ml | Cl.CO
reactant | 2,6-lutidine | 7.2 mmol, 0.84 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyltriflate | 3.6 mmol, 0.83 ml | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 0.90 mmol, 2M, 0.45 ml | CCCCCC | C6H14
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-allyl 3-methyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 71 mg, 22% | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(CC=C1C(=O)OC)C(=O)OCC=C | C17H29NO5Si
